US07767672B2
4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-N-cyclopentyl-benzamide
A 25 ml round bottom flask was charged with 4-[4-azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid (200 mg, 0.48 mmol), cyclopentyl amine (85 mg, 1 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3, -tetramethyluroniumtetrafluoroborate (321 mg, 1 mmol), diisopropylethylamine (0.34 ml, 2 mmol) in dimethylformamide (5 ml), under nitrogen. The reaction mixture was stirred at room temperature for 18 hours and then was diluted with ethyl acetate (40 ml), washed with a saturated sodium hydrogen carbonate aqueous solution (40 ml) and brine (40 ml). The organic was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated in dichloromethane to afford the title compound. 1H NMR (DMSO-d6): 1.60-1.65 (4H, m), 1.70-1.80 (2H, m), 1.95-2.10 (5H, m), 2.20-2.30 (2H, m), 3.90-4.00 (4H, s), 4.30-4.35 (1H, m), 5.35-5.40 (1H, s), 7.70-7.75 (2H, d), 8.00-8.05 (2H, d), 8.45-8.50 (1H, d), 9.3 (1H, s). MS (ES+): 450.

reactant | 4-[4-azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid | 0.48 mmol, 200 mg | N1(CCC1)C1=NC(=NC(=C1)NC=1NN=C(C1)C)SC1=CC=C(C(=O)O)C=C1 | C18H18N6O2S
reactant | cyclopentyl amine | 1 mmol, 85 mg | C1(CCCC1)N | C5H11N
reactant | tetramethyluroniumtetrafluoroborate | 1 mmol, 321 mg | F[B-](F)(F)F.CN(C(=[N+](C)C)O)C
reactant | diisopropylethylamine | 2 mmol, 0.34 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-N-cyclopentyl-benzamide | N1(CCC1)C1=NC(=NC(=C1)NC=1NN=C(C1)C)SC1=CC=C(C(=O)NC2CCCC2)C=C1 | C23H27N7OS
